US06713499B2
4-Fluoro-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-benzothiazol-2-yl}-benzamide
From 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine with 4-fluorobenzoic acid, HATU and N-ethyldiisopropylamine in THF. ES-MS m/e (%): 430 (M+H+, 100).

reactant | 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)N(CC2CCOCC2)C | C15H21N3O2S
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 4-Fluoro-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-benzothiazol-2-yl}-benzamide | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(CC3CCOCC3)C)OC)C=C1 | C22H24FN3O3S
